US07067658B2
Trifluoro-methanesulfonic acid 4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl-ester (0.764 g, 1.95 mmol), prepared substantially as described in Part C of Example 67a, and 1-cylcopropyl-butyl amine HCl (0.580 g, 3.9 mmol) were treated substantially as described in Part C of Example 67a to produce 0.230 g (50%) of (1-cyclopropyl-butyl)-[4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]amine.

reactant | Trifluoro-methanesulfonic acid 4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl-ester | 1.95 mmol, 0.764 g | COC1=CC(=C(C=C1)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-])C | C14H11F3N2O6S
reactant | 1-cylcopropyl-butyl amine HCl | 3.9 mmol, 0.580 g | Cl.C1(CC1)C(CCC)N
product | (1-cyclopropyl-butyl)-[4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]amine | 0.230 g, 50% | C1(CC1)C(CCC)NC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC)C | C20H25N3O3
